US07067517B2
Methyl-phenyl-carbamic acid 4-[2-(3-oxo-1,2,3,4-tetrahydro-quinoxalin-2-yl)-acetylamino]-phenyl ester
The title product was prepared from N-(4-hydroxyphenyl)-2-(3-oxo-1,2,3,4-tetrahydro-2-quinoxalinyl)acetamide and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC (20%, yellow solid). HPLC-MS: m/z=431.2 (M+1); Rt: 3.55 min.

reactant | N-(4-hydroxyphenyl)-2-(3-oxo-1,2,3,4-tetrahydro-2-quinoxalinyl)acetamide | OC1=CC=C(C=C1)NC(CC1NC2=CC=CC=C2NC1=O)=O | C16H15N3O3
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-[2-(3-oxo-1,2,3,4-tetrahydro-quinoxalin-2-yl)-acetylamino]-phenyl ester | O=C1C(NC2=CC=CC=C2N1)CC(=O)NC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C24H22N4O4
